US04122186
(1) Ethyl 4-nitrobenzylthioacetate
43.2 g (0.2 mol) of p-nitrobenzylbromide, 200 ml of acetone, 0.2 g of potassium iodide, 24 ml of ethyl thioglycolate (namely a slight excess) and 27.6 g (0.2 mol) of potassium carbonate are successively introduced into a 1 liter 3-necked flask. The mixture is heated under reflux for about 4 hours until the bromine derivative completely disappears; the acetone is evaporated, the oil obtained is taken up in ether and in water, the ether phase is washed with a dilute solution of NaOH to remove the excess thiol, and then with a dilute solution of HCl, the solution is dried over Na2SO4 and the solvent is evaporated off. 49 g (yield: 95%) of the stated product, which is in the form of an orange coloured oil, are obtained.

reactant | p-nitrobenzylbromide | 0.2 mol, 43.2 g | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
reactant | ethyl thioglycolate | 24 ml | C(CS)(=O)OCC | C4H8O2S
reactant | potassium carbonate | 0.2 mol, 27.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | bromine | BrBr | Br2
reactant | ether | CCOCC | C4H10O
solvent | water | O | H2O
catalyst | potassium iodide | 0.2 g | [I-].[K+]
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | Ethyl 4-nitrobenzylthioacetate | 49 g, yield: 95% | [N+](=O)([O-])C1=CC=C(CCC(=S)OCC)C=C1 | C11H13NO3S
